US07781436B2
(6-Chloro-1-pyridin-3-ylmethyl-1H-indol-3-yl)-[4-(2,6-dimethoxy-phenyl)-piperidin-1-yl]-methanone
Following general procedure II, the alkylation of (6-chloro-1H-indol-3-yl)-[4-(2,6-dimethoxy-phenyl)-piperidin-1-yl]-methanone (preparation described herein), with commercially available 3-chloromethyl-pyridine gave the title compound.

reactant | (6-chloro-1H-indol-3-yl)-[4-(2,6-dimethoxy-phenyl)-piperidin-1-yl]-methanone | ClC1=CC=C2C(=CNC2=C1)C(=O)N1CCC(CC1)C1=C(C=CC=C1OC)OC | C22H23ClN2O3
reactant | 3-chloromethyl-pyridine | ClCC=1C=NC=CC1 | C6H6ClN
product | (6-Chloro-1-pyridin-3-ylmethyl-1H-indol-3-yl)-[4-(2,6-dimethoxy-phenyl)-piperidin-1-yl]-methanone | ClC1=CC=C2C(=CN(C2=C1)CC=1C=NC=CC1)C(=O)N1CCC(CC1)C1=C(C=CC=C1OC)OC | C28H28ClN3O3
